US08008303B2
5′-(Cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid ethyl ester
A mixture of 5′-amino-2′-chloro-biphenyl-4-carboxylic acid ethyl ester hydrochloride (521 mg), triethylamine (0.49 ml) and cyclohexanecarbonyl chloride (0.26 ml) in dry THF (25 ml) was stirred at 20 C for 18 h. The mixture was then evaporated and the residue partitioned between water and dichloromethane. The organic layer was washed with water, dried (MgSO4), filtered and evaporated under reduced pressure to give the product (714 mg) as a yellow oil.

reactant | 5′-amino-2′-chloro-biphenyl-4-carboxylic acid ethyl ester hydrochloride | 521 mg | Cl.C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)Cl
reactant | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 0.26 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5′-(Cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid ethyl ester | 714 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CCCCC1)Cl | C22H24ClNO3
